US07598384B2
2-Cyclohexyloxy-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one hydrochloride
To a solution of cyclohexanol (0.2 g, 2.0 mmol) in diethyl ether (10 ml) was added sodium (0.035 g, 1.5 mmol) and it was stirred at room temperature for 2.5 h. Then 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one (0.21 g, 1.0 mmol) was added and the resulting mixture was stirred at 30° C. for 24 h. Water (12 ml) was added and the mixture was extracted with ethyl acetate (2×10 ml). The organic phase was washed with water (10 ml) and dried over magnesium sulphate, then it was filtered and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (petroleum ether-ethyl acetate, 10:1) followed by treatment with a dry 0.5M HCl solution in diethyl ether to give the title compound (0.28 g, 47%) as a colorless solid.

reactant | cyclohexanol | 2.0 mmol, 0.2 g | C1(CCCCC1)O | C6H12O
reactant | sodium | 1.5 mmol, 0.035 g | [Na] | Na
reactant | 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one | 1.0 mmol, 0.21 g | ClC1=NC=2CC(CC(C2C=C1)=O)(C)C | C11H12ClNO
reactant | Water | 12 ml | O | H2O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-Cyclohexyloxy-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one hydrochloride | 0.28 g, 47% | Cl.C1(CCCCC1)OC1=NC=2CC(CC(C2C=C1)=O)(C)C | InChI=1S/C17H23NO2.ClH/c1-17(2)10-14-13(15(19)11-17)8-9-16(18-14)20-12-6-4-3-5-7-12;/h8-9,12H,3-7,10-11H2,1-2H3;1H
